US06313126B1
6-Methoxy-[1,7]naphthyridin-8-ylamine
To an oven-dried 250 mL flask under a nitrogen atmosphere was added anhydrous MeOH (200 mL). Na metal (1.07 g, 44 mmol) was weighed to a small beaker containing hexane and then transferred to the reaction vessel. After dissolution of the sodium, 3-cyanomethyl-pyridine-2-carbonitrile (5.3 g, 37 mmol) dissolved in anhydrous MeOH (10 mL) was added to the reaction. The resulting solution was heated at 80° C. for 3 hours, then stirred at room temperature overnight. The reaction mixture was concentrated to remove MeOH and extracted into CH2Cl2 (2×200 mL). The organic phases were combined, dried over Na2SO4, filtered, concentrated and unsuccessfully chromatographed (2% MeOH/CH2Cl2). The mixed fractions were combined and recrystalized from EtOAc/hexane affording 1.16 g (18%) of the title compound as a yellow solid. The mother liquor was rechromatographed (50% EtOAc/hexanes) to afford an additional 560 mg (9%) of product: mp decomposes above 110° C.; MS(+)APCI m/z 176 [M+H]+.

reactant | hexane | CCCCCC | C6H14
reactant | sodium | [Na] | Na
reactant | 3-cyanomethyl-pyridine-2-carbonitrile | 37 mmol, 5.3 g | C(#N)CC=1C(=NC=CC1)C#N | C8H5N3
reactant | MeOH | 10 mL | CO | CH4O
reactant | MeOH | 200 mL | CO | CH4O
product | 6-Methoxy-[1,7]naphthyridin-8-ylamine | 560 mg, 9% | COC=1C=C2C=CC=NC2=C(N1)N | C9H9N3O
